US04486354
A solution of 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine (2 gm, 8 mM) and acetic anhydride (10 mls) in acetic acid (20 mls) was stirred and heated to reflux for 2 hours. The solution was then cooled and evaporated down in vacuo. The residue was treated with aqueous 0.880 ammonia (100 mls) and the resultant mixture was stirred for 2 hours. The solid was separated by filtration, dried then recrystallized from isopropanol to give 5-acetamido-3-amino-6-(2,3-dichlorophenyl)-1,2,4-triazine. Yield 1.0 gms (42%), m.p. 250°-252° C. (uncorrected).

reactant | 3,5-diamino-6-(2,3-dichlorophenyl)-1,2,4-triazine | 8 mM, 2 gm | NC=1N=NC(=C(N1)N)C1=C(C(=CC=C1)Cl)Cl | C9H7Cl2N5
reactant | acetic anhydride | 10 mls | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 20 mls | C(C)(=O)O | C2H4O2
product | 5-acetamido-3-amino-6-(2,3-dichlorophenyl)-1,2,4-triazine | C(C)(=O)NC=1N=C(N=NC1C1=C(C(=CC=C1)Cl)Cl)N | C11H9Cl2N5O
